US04639541
24.6 g of alpha-chlorophenylacetic acid chloride, dissolved in 20 ml of toluene, were added dropwise to a mixture of 23.7 g of 3-iodopropynol, 15 g of triethylamine and 100 ml of toluene. The reaction temperature was 60° C. The reaction mixture was finally taken up in 100 ml of ether and the ethereal solution was subsequently extracted first with 1N hydrochloric acid and then with saturated sodium bicarbonate solution. Finally, the organic phase was dried with sodium sulfate. After distilling off the ether, 36.5 g, corresponding to 84% of the theoretical yield, of alpha-chlorophenylacetic acid iodopropargyl ester were obtained.

reactant | alpha-chlorophenylacetic acid chloride | 24.6 g | ClC(C(=O)Cl)C1=CC=CC=C1 | C8H6Cl2O
reactant | 3-iodopropynol | 23.7 g | ICC#CO | C3H3IO
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 15 g | C(C)N(CC)CC | C6H15N
product | alpha-chlorophenylacetic acid iodopropargyl ester | IC(C#C)OC(C(Cl)C1=CC=CC=C1)=O | C11H8ClIO2
